US07485647B2
A solution of 3-pyrrolidinol (4.0 g) in dioxane-water (10:1, 50 ml) mixed solvent was cooled to 5° C., and into which a solution of 4-nitrobenzyl chloroformate (10.9 g) in dioxane (20 ml) was added dropwise, while maintaining the pH at 8-9, followed by 10 minutes' stirring at 5° C. Distilling the solvent off under reduced pressure, the residue was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and from which the solvent was distilled off under reduced pressure. Washing the residue with ethyl acetate, 3-hydroxy-1-(p-nitrobenzyloxycarbonyl)pyrrolidine (6.6 g) was obtained as a pale yellow solid.

reactant | 3-pyrrolidinol | 4.0 g | N1CC(CC1)O | C4H9NO
reactant | 4-nitrobenzyl chloroformate | 10.9 g | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
solvent | dioxane water | 50 ml | O1CCOCC1.O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-hydroxy-1-(p-nitrobenzyloxycarbonyl)pyrrolidine | 6.6 g | OC1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C12H14N2O5
